US06117875
To a stirred suspension of 2-(3-pyridyl)thiazole-4-carboxylic acid (0.56 g) and triethylamine (0.55 g) in methylene chloride (25 ml) was added pivaloyl chloride (0.33 g) in methylene chloride (5 ml) and the mixture was stirred for 2 hours. After the reaction mixture was cleared, 4-[3-(3-aminophenyl)phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (1.0 g) was added thereto and the mixture was stirred under reflux for 2 hours. The reaction mixture was washed with sodium bicarbonate solution and water, dried over magnesium sulfate and concentrated. Crude residue was chromatographed on silica gel (70 g, chloroform-methanol 100:1 as eluent) to give 4-[3-[3-[2-(3-pyridyl)thiazol-4-ylcarbonylamino]phenyl]phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine as colorless crystals (0.48 g).

reactant | 2-(3-pyridyl)thiazole-4-carboxylic acid | 0.56 g | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
reactant | triethylamine | 0.55 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.33 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-[3-(3-aminophenyl)phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 1.0 g | NC=1C=C(C=CC1)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C25H19N5O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-[3-[2-(3-pyridyl)thiazol-4-ylcarbonylamino]phenyl]phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 0.48 g | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)NC=1C=C(C=CC1)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C34H23N7O2S
